US08293768B2
Synthesis of ethyl 2-(2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylate
Following the procedure as described in Example 3, making variations as required to replace ethyl 2-amino-4-methylthiazole-5-carboxylate with ethyl 2-amino-4-(trifluoromethyl)thiazole-5-carboxylate to react with 2-chloroethyl isocyanate, the title compound was obtained as a colorless solid in 30% yield: mp 185-187° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 5.54 (s, 1H), 4.36-4.21 (m, 4H), 3.74-3.68 (m, 2H), 1.36-1.31 (m, 3H); 13C NMR (75 MHz, CDCl3) δ 159.8, 157.0, 125.4, 122.6, 121.8, 118.2, 62.0, 44.2, 43.8, 14.0; MS (ES+) m/z 310.2 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | ethyl 2-amino-4-(trifluoromethyl)thiazole-5-carboxylate | NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H7F3N2O2S
reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
product | ethyl 2-(2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylate | 30% yield | O=C1N(CCN1)C=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C10H10F3N3O3S
